US04383945
A solution of diazomethane in ether (1 ml) was added to a solution of [(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl]-acetic acid (29 mg) in a mixture of methylene chloride (1 ml) and methanol (1 ml) at 0° C. and the mixture was stirred for 15 minutes at 0° C. Acetic acid (1 drop) was added to the mixture at 0° C. and the mixture was evaporated in vacuo. The residue was chromatographed on silica gel (1 g) eluting with a mixture of methylene chloride and ethyl acetate (10:1) to give methyl [(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl]acetate (31 mg).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | [(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl]-acetic acid | 29 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1[C@H](NC1=O)CC(=O)O | C16H18N2O8
solvent | ether | 1 ml | CCOCC | C4H10O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
catalyst | Acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | methyl [(2R,3S)-3-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-4-oxoazetidin-2-yl]acetate | 31 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@@H]1[C@H](NC1=O)CC(=O)OC | C17H20N2O8
